US06051712
A solution of 11 0 mg (0.2 mmol) of crude tert-butyl (3RS,4RS)-4-[4-(2-methylsulphonyloxy-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate in 5 ml of dimethylformamide was treated with 70 mg (1.0 mmol) of 1,2,4-triazole sodium salt and the reaction mixture was heated to 100° C. for 6 hours. Subsequently, the mixture was cooled to room temperature and the dimethylformamide was distilled off in an oil pump vacuum. The residue was taken up in 10 ml of methylene chloride, washed with 2 ml of water, the organic phase was dried over sodium sulphate and evaporated under reduced pressure. The residue was chromatographed on silica gel using a 95:5:0.1 mixture of methylene chloride, methanol and ammonia as the eluent. There were obtained 90 mg (85% of theory) of tert-butyl (3RS,4RS)-3-naphthalen-2-ylmethoxy-4-[4-(2-[1,2,4]triazol-1-yl-ethoxy)-phenyl]-piperidine-1-carboxylate as a colourless oil; MS: 529 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(2-methylsulphonyloxy-ethoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | CS(=O)(=O)OCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C30H37NO7S
reactant | 1,2,4-triazole sodium salt | 1.0 mmol, 70 mg | [Na].N1N=CN=C1
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | tert-butyl (3RS,4RS)-3-naphthalen-2-ylmethoxy-4-[4-(2-[1,2,4]triazol-1-yl-ethoxy)-phenyl]-piperidine-1-carboxylate | 90 mg, 85% | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCN1N=CN=C1)C(=O)OC(C)(C)C | C31H36N4O4
